US09059412B2
A mixture solution of 3-bromo-2-nitrobenzo[b]thiophene (14 g, 54 mmol), aniline (14 ml, 154 mmol) and triethylamine (11 ml, 79 mmol) in DMF (150 ml) was heated at 120° C. for 30 min before quenching with water. The solid was isolated by filtration, washed with water and recrystallized from DCM/hexane to yield 2-nitro-N-phenylbenzo[b]thiophen-3-amine (14 g, 96%) as a yellow solid.

reactant | 3-bromo-2-nitrobenzo[b]thiophene | 54 mmol, 14 g | BrC=1C2=C(SC1[N+](=O)[O-])C=CC=C2 | C8H4BrNO2S
reactant | aniline | 154 mmol, 14 ml | NC1=CC=CC=C1 | C6H7N
reactant | triethylamine | 79 mmol, 11 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
product | 2-nitro-N-phenylbenzo[b]thiophen-3-amine | 14 g, 96% | [N+](=O)([O-])C1=C(C2=C(S1)C=CC=C2)NC2=CC=CC=C2 | C14H10N2O2S
